US07723333B2
4-(Hexylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and hexane-1-amine in a similar manner as described for Example 1. 1H NMR (400 MHz, CD3CN): δ 7.48-7.56 (m, 5H), 5.83-5.99 (m, 1H), 3.83 (t, 2H), 3.67 (t, 2H), 3.35 (s, 3H), 2.84-2.90 (m, 2H), 1.13-1.32 (m, 4H), 0.92-1.09 (m, 4H), 0.82 (t, 3H); Mass Spectrum: M−H+ 365.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | hexane-1-amine | C(CCCCC)N | C6H15N
product | 4-(Hexylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCCCC)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C18H26N2O4S
